US09056874B2
4,5-Diamino-2-fluorobenzonitrile
To a solution of 2,4-difluoro-5-nitrobenzonitrile (CAS #: 67152-20-9) (5.0 g, 27.2 mmol) in EtOH (100 mL) was added NH4OH (100 mL) slowly at room temperature. The mixture was stirred for 30 min, then concentrated under reduced pressure to about 100 mL. The yellow product was filtered and washed with water, and then dried. To a solution of the residue (3.96 g, 22 mmol) in EtOAc (150 mL) and acetic acid (25 mL) was added zinc (14.3 g, 219 mmol). The mixture was stirred at room temperature for 2 hour. The reaction mixture was diluted with EtOAc and filtered through a pad of Celite®. The Celite® pad was washed with EtOAc. The filtrate was concentrated, and the residue was dissolved in MeOH (50 mL) and NH4OH (100 mL). The mixture was then concentrated to around 100 mL and the mixture was left standing at room temperature overnight. The precipitate was filtered and washed with water, and then dried to give the title compound. MS (ESI+) m/z 152.1 (M+H).

reactant | 2,4-difluoro-5-nitrobenzonitrile | 27.2 mmol, 5.0 g | FC1=C(C#N)C=C(C(=C1)F)[N+](=O)[O-] | C7H2F2N2O2
reactant | NH4OH | 100 mL | [NH4+].[OH-]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 219 mmol, 14.3 g | [Zn] | Zn
product | 4,5-Diamino-2-fluorobenzonitrile | NC1=CC(=C(C#N)C=C1N)F | C7H6FN3
